US07994164B2
(2S,4S)-4-Bromo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
Add triphenylphosphine (0.88 mol, 231 g) in portions to a solution of (2S,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.58 mol, 144 g) and CBr4 (0.88 mol, 292 g) in dry dichloromethane (1.44 L) at 0° C. Upon complete addition, warm the reaction mixture to room temperature and stir for 4 h. Add ethanol (1.44 L) and stir for an additional 2 h. Add diethyl ether (1.44 L) to the reaction mixture, filter the precipitated triphenylphosphine oxide, and concentrate the filtrate under reduced pressure. Purify by column chromatography using 5% ethyl acetate in hexanes as eluent to obtain the title compound (155 g, 85%) as a thick oil. ES-MS m/z 308 [M+1]+.

reactant | triphenylphosphine | 0.88 mol, 231 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2S,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.58 mol, 144 g | COC(=O)[C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
reactant | CBr4 | 0.88 mol, 292 g | C(Br)(Br)(Br)Br | CBr4
reactant | ethanol | 1.44 L | C(C)O | C2H6O
solvent | dichloromethane | 1.44 L | ClCCl | CH2Cl2
product | (2S,4S)-4-Bromo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 155 g, 85% | COC(=O)[C@H]1N(C[C@H](C1)Br)C(=O)OC(C)(C)C | C11H18BrNO4
